US04283334
2,3,6,7,8,9-Hexahydro-2,3-diphenyl-5H-thiazolo-[3,2-a][1,3]diazocin-3-ol, hydrobromide
A 2.16 g. portion of hexahydro-1,3-diazocine-2(1H)-thione is dissolved in 800 ml. of hot acetone. The solution is clarified and then stirred as 4.2 g. of 2-bromo-2-phenylacetophenone in 50 ml. of acetone is added. The solution is stirred at room temperature for 7 hours, then the solid is collected, washed with 200 ml. of acetone and dried in vacuo at 60° C., giving 5.1 g. of the desired product, m.p. 211°-213° C. (dec.).

reactant | hexahydro-1,3-diazocine-2(1H)-thione | N1C(NCCCCC1)=S | C6H12N2S
reactant | 2-bromo-2-phenylacetophenone | BrC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2,3,6,7,8,9-Hexahydro-2,3-diphenyl-5H-thiazolo-[3,2-a][1,3]diazocin-3-ol, hydrobromide | Br.C1(=CC=CC=C1)C1C(N2C(=NCCCCC2)S1)(O)C1=CC=CC=C1 | InChI=1S/C20H22N2OS.BrH/c23-20(17-12-6-2-7-13-17)18(16-10-4-1-5-11-16)24-19-21-14-8-3-9-15-22(19)20;/h1-2,4-7,10-13,18,23H,3,8-9,14-15H2;1H
